US06562897B1
5-tertbutyl ε-caprolactone
This was prepared in the same manner as Lactone 1 except using 4-tert butylcyclohexanone (10 parts, 0.065 m ex. Aldrich), 3-chloroperoxybenzoic acid (17.5 parts, 0.0713M), sodium bicarbonate (11.5 parts, 0.143M) and dichloromethane (750 ml) in place of the 3-methyl cyclohexanone and amounts described for Lactone 1. The product was obtained as an oil (10.2 parts).

reactant | 4-tert butylcyclohexanone | C(C)(C)(C)C1CCC(CC1)=O | C10H18O
reactant | 3-chloroperoxybenzoic acid | 0.0713M | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | sodium bicarbonate | 0.143M | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 750 ml | ClCCl | CH2Cl2
product | 5-tertbutyl ε-caprolactone | C(C)(C)(C)C1CCCC(=O)OC1 | C10H18O2
